US08835428B2
Step 2: 2-(4-nitrophenyl)thiazole-4-carboxylic acid
To a solution of Ethyl 2-(4-nitrophenyl)thiazole-4-carboxylate in THF, 1N LiOH was added at RT and stirred for 2-3 hr. After completion of reaction THF was removed under reduced pressure. Obtained material was dissolved in water acidified with 1N HCl and white solid precipitated out. It was filtered and dried. Yield 4.4 gm (97%). MS (ESI) m/z: 249(M−H)−; 1HNMR (DMSO-d6, 300 MHz): δ 13.233 (s, 1H), 8.658 (s, 1H), 8.358 (d, 2H), 8.269 (d, 2H).

reactant | Ethyl 2-(4-nitrophenyl)thiazole-4-carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC=C(N1)C(=O)OCC | C12H10N2O4S
solvent | THF | C1CCOC1 | C4H8O
solvent | LiOH | 1N | [Li+].[OH-]
product | 2-(4-nitrophenyl)thiazole-4-carboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC=C(N1)C(=O)O | C10H6N2O4S
